US07141586B2
4-(allyloxy)-2-methoxy-1-(methylsulfanyl)benzene
5-(Allyloxy)-2-sulfanylphenol (37.84 g, 0.21 mol) and potassium carbonate (43 g, 0.31 mol) in acetone (450 ml) was cooled to 5° C. and treated with methyl iodide (32.32 ml, 0.52 mol) dropwise and stirred for 1 h at RT. After removal of the solvent in vacuo, the residue was partioned between diethyl ether (300 ml) and water (400 ml). The aqueous phase was separated and extracted with further diethyl ether (2×150 ml) and the combined organics were dried over MgSO4 and evaporated to a clear oil (26 g, 0.12 mol).

reactant | 5-(Allyloxy)-2-sulfanylphenol | 0.21 mol, 37.84 g | C(C=C)OC=1C=CC(=C(C1)O)S | C9H10O2S
reactant | potassium carbonate | 0.31 mol, 43 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.52 mol, 32.32 ml | CI | CH3I
solvent | acetone | 450 ml | CC(=O)C | C3H6O
product | 4-(allyloxy)-2-methoxy-1-(methylsulfanyl)benzene | C(C=C)OC1=CC(=C(C=C1)SC)OC | C11H14O2S
